US08445538B2
Step A. tert-Butyl 4-[2-(4-chlorophenyl)-1-propylethan-2-one-1-yl]benzoate
A 3-neck flask was charged with NaOtBu (2.85 g, 28.6 mmol) and dry THF (50 mL) under nitrogen. Tris(dibenzylideneacetone)dipalladium(0) (0.26 g, 0.28 mmol) and (S)-Tol-Binap (0.47 g, 0.69 mmol) were then added under nitrogen. After stirring for 15 min, 1-(4-chlorophenyl)pentan-1-one (4.21 g, 21.0 mmol) was added, followed by tert-butyl 4-bromobenzoate (5.0 g, 19.1 mmol) under nitrogen. The mixture was heated at 60° C. for 8 hours. The mixture was diluted with heptane (100 mL) and poured into a solution of saturated NaHCO3 (aq) (60 mL) and ice (40 g). The resulting layers were separated, and the aqueous phase was back-extracted with methyl tert-butyl ether (50 mL). The combined organics were washed with saturated NaHCO3 (aq) then 10% NaCl (aq). The organic solution was filtered through a bed of silica 60 (84 g, wetted with 1:1 methyl tert-butyl ether/heptane), and washed with 1:1 methyl tert-butyl ether/heptane (600 mL). The combined filtrate was concentrated to afford an orange oil that was used directly for the next step: 1H NMR (500 MHz, CDCl3): δ 7.91 (d, J=8.1 Hz, 2H); 7.86 (d, J=8.4 Hz, 2H); 7.35 (d, J=8.4 Hz, 2H); 7.32 (d, J=8.2 Hz, 2H); 4.53 (t, J=7.2 Hz, 1H); 2.19-2.09 (m, 1H); 1.85-1.76 (m, 1H); 1.56 (s, 9H); 1.35-1.18 (m, 2H); 0.91 (t, J=7.3 Hz, 3H); LC1 1.35 min. [M-tBu+H]+ 317.

reactant | NaOtBu | 28.6 mmol, 2.85 g | CC(C)(C)[O-].[Na+]
reactant | (S)-Tol-Binap | 0.69 mmol, 0.47 g | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
reactant | 1-(4-chlorophenyl)pentan-1-one | 21.0 mmol, 4.21 g | ClC1=CC=C(C=C1)C(CCCC)=O | C11H13ClO
reactant | tert-butyl 4-bromobenzoate | 19.1 mmol, 5.0 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | heptane | 100 mL | CCCCCCC | C7H16
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.28 mmol, 0.26 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-[2-(4-chlorophenyl)-1-propylethan-2-one-1-yl]benzoate | ClC1=CC=C(C=C1)C(C(CCC)C1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C22H25ClO3
